US09403831B2
(S)-2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidine-5-carboaldehyde 16 mg(0.033 mmol) was dissolved in CH2Cl2 2 ml, and 1-methylpiperazine 7.4 μl (0.066 mmol), AcOH 2.3 μl, and NaBH(OAc)3 11 mg (0.05 mmol) were added, followed by stirring at room temperature overnight. After the completion of the reaction, the reaction mixture was adjusted to pH 8 with aq. K2CO3 (5%), and extracted with H2O, EA, and brine, followed by drying (Na2SO4), filtration, and concentration under reduced pressure. The residue was purified by column chromatography (MeOH:MC=1:10), to give (S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-((4-methylpiperazin-1-yl)methyl)pyrimidin-2-yl)morpholine 14.1 mg, (76%).

reactant | (S)-2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidine-5-carboaldehyde | 0.033 mmol, 16 mg | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@H]2OCCN(C2)C2=NC=C(C=N2)C=O | C18H18N10O2
reactant | 1-methylpiperazine | 0.066 mmol, 7.4 μl | CN1CCNCC1 | C5H12N2
reactant | NaBH(OAc)3 | 0.05 mmol, 11 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | AcOH | 2.3 μl | CC(=O)O | C2H4O2
product | (S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-((4-methylpiperazin-1-yl)methyl)pyrimidin-2-yl)morpholine | 14.1 mg, 76% | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)CN2CCN(CC2)C | C23H30N12O
